US08455657B2
3.0 g of 2-methoxy-3-methylsulfinyl-4-trifluoromethylbenzoic acid and 1.68 g of 1,3-cyclohexanedione are suspended in 20 ml of ethyl acetate and 5.61 ml of pyridine under an inert atmosphere and cooled to −25° C. with stirring. 1.73 g of thionyl chloride are then slowly added dropwise such that the temperature always remains below −20° C. Following the complete addition of the thionyl chloride, the mixture is stirred for a further 20 minutes. 38 μl of cold water are added, and the mixture is warmed to 0° C. 10 ml of ethyl acetate and a further 10 ml of water are then added. After separating the organic phase from the aqueous phase, the aqueous phase is extracted twice with 5 ml of ethyl acetate in each case. The combined organic phases are dried, giving 3.57 g of 3-[2-methoxy-3-(methylsulfinyl)-4-(trifluoro-methyl)benzoyloxy]cyclohex-2-en-1-one (85.5% yield).

reactant | 2-methoxy-3-methylsulfinyl-4-trifluoromethylbenzoic acid | 3.0 g | COC1=C(C(=O)O)C=CC(=C1S(=O)C)C(F)(F)F | C10H9F3O4S
reactant | 1,3-cyclohexanedione | 1.68 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | pyridine | 5.61 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 1.73 g | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | water | 38 μl | O | H2O
product | 3-[2-methoxy-3-(methylsulfinyl)-4-(trifluoro-methyl)benzoyloxy]cyclohex-2-en-1-one | 3.57 g, 85.5% yield | COC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1S(=O)C)C(F)(F)F | C16H15F3O5S
